US07745641B2
In a similar manner to Step 2 of Example 6, 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (1.02 g, 2.66 mmol) was dissolved in acetonitrile (13.0 mL), and the solution was treated with 2-methoxyethylamine (3.47 mL, 39.9 mmol), acetic acid (2.28 mL, 13.3 mmol) and sodium triacetoxyborohydride (2.82 g, 39.9 mmol), followed by purification by flash column chromatography (chloroform/methanol=4/1) to obtain 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(2-methoxyethylaminomethyl)indol-2-yl]isoindolinone (0.83 g, 56%).

reactant | 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 2.66 mmol, 1.02 g | CS(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C24H24N2O8S
reactant | 2-methoxyethylamine | 39.9 mmol, 3.47 mL | COCCN | C3H9NO
reactant | acetic acid | 13.3 mmol, 2.28 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 39.9 mmol, 2.82 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | 13.0 mL | C(C)#N | C2H3N
product | 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(2-methoxyethylaminomethyl)indol-2-yl]isoindolinone | 0.83 g, 56% | CS(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)CNCCOC)C(=O)OC(C)(C)C)=O | C27H33N3O8S
